US06166028
[4-(2-Fluoro-benzoylamino)-phenyl]-carbamic acid tert-butyl ester
To a solution of mono-N-(t-butoxycarbonyl)-1,4-phenylenediamine (1.58 g) and triethylamine (1.50 mL) in 25 mL of dichloromethane is added o-fluorobenzoyl chloride (1.20 g). A solid formed immediately forms and is filtered and washed with fresh solvent to yield a white solid, 1.90 g.

reactant | mono-N-(t-butoxycarbonyl)-1,4-phenylenediamine | 1.58 g | C(C)(C)(C)OC(=O)NC1=CC=C(C=C1)N | C11H16N2O2
reactant | triethylamine | 1.50 mL | C(C)N(CC)CC | C6H15N
reactant | o-fluorobenzoyl chloride | 1.20 g | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | [4-(2-Fluoro-benzoylamino)-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=CC=C(C=C1)NC(C1=C(C=CC=C1)F)=O)=O | C18H19FN2O3
